US04804760
Example 6 Ethyl 3-(2-ethoxycarbonyl-ethylamino)-2-(2,3,4,5-tetrafluoro-benzoyl)acrylate
6.4 g of ethyl 3-ethoxy-2-(2,3,4,5-tetrafluoro-benzoyl)-acrylate are initially introduced into 30 ml of methylene chloride. A solution of 3.1 g of ethyl 3-amino-propionate hydrochloride in 12 ml of water is added to this. A solution of 1.7 g of NaHCO3 in 20 ml of water is added dropwise to the two-phase mixture with vigorous stirring. After the dropwise addition is complete, the mixture is stirred for a further 3 hours. The phases are then separated, and the organic phase is washed with water and dried over Na2SO4. After concentration, 7.8 g of the title compound remain.

reactant | ethyl 3-ethoxy-2-(2,3,4,5-tetrafluoro-benzoyl)-acrylate | 6.4 g | C(C)OC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)F)F)F)=O | C14H12F4O4
reactant | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
reactant | ethyl 3-amino-propionate hydrochloride | 3.1 g | Cl.NCCC(=O)OCC
reactant | NaHCO3 | 1.7 g | C(=O)(O)[O-].[Na+]
solvent | water | 12 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | Ethyl 3-(2-ethoxycarbonyl-ethylamino)-2-(2,3,4,5-tetrafluoro-benzoyl)acrylate | C(C)OC(=O)CCNC=C(C(=O)OCC)C(C1=C(C(=C(C(=C1)F)F)F)F)=O | C17H17F4NO5
